US07351857B2
To 2-(2-aminoindan-5-ylsulfanyl)-2-methylpropionic acid tert-butyl ester (0.220 g; 0.72 mmol), dissolved in DCE (4 mL), is added pent-4-enal (0.060 mg; 0.72 mmol) followed by sodium triacetoxyborohydride (0.21 g; 1.0 mmol) and the reaction mixture stirred for 18 h at RT. The reaction mixture was diluted with CH2Cl2, washed with H2O, brine, dried over Na2SO4, filtered and the solvent evaporated under reduced pressure to afford 2-methyl-2-(2-pent-4-enylaminoindan-5-ylsulfanyl)propionic acid tert-butyl ester as a crude oil.

reactant | 2-(2-aminoindan-5-ylsulfanyl)-2-methylpropionic acid tert-butyl ester | 0.72 mmol, 0.220 g | C(C)(C)(C)OC(C(C)(C)SC=1C=C2CC(CC2=CC1)N)=O | C17H25NO2S
reactant | pent-4-enal | 0.72 mmol, 0.060 mg | C(CCC=C)=O | C5H8O
reactant | sodium triacetoxyborohydride | 1.0 mmol, 0.21 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCE | 4 mL | ClCCCl | C2H4Cl2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-methyl-2-(2-pent-4-enylaminoindan-5-ylsulfanyl)propionic acid tert-butyl ester | C(C)(C)(C)OC(C(C)(SC=1C=C2CC(CC2=CC1)NCCCC=C)C)=O | C22H33NO2S
